US05155122
5-[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]-1,3,4-thiadiazole-2-carboxamide
A solution of 2.0 ml (3.20 mmol) of 1.6M n-butyllithium in hexane is added dropwise to liquid ammonia (3-5 ml) at -78° C. over 10 minutes under a nitrogen atmosphere. The resulting white slurry is treated slowly with 10 ml of tetrahydrofuran and the resulting mixture of lithium amide at -78° C. is treated dropwise with a solution of 1.08 g (3.10 mmol) of 5-[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]-1,3,4-thiadiazole-2-carboxylic acid, methyl ester in 3 ml of tetrahydrofuran. The reaction is allowed to warm slowly to room temperature and stirred for a total of 18 hours. The reaction is quenched with 100 ml of saturated aqueous NH4Cl and extracted with t-butylmethylether (3×). The combined organic extracts are washed with brine, dried over Na2SO4, and concentrated in vacuo to give a yellow solid. Chromatography (flash, SiO2, 70-230 mesh, 30% ethyl acetate-hexane) followed by recrystallization from toluene gives 0.68 g (1.03 g theor., 66%) of the desired product as a pale yellow solid, mp 200°-201° C.

reactant | n-butyllithium | 3.20 mmol, 1.6M, 2.0 ml | C(CCC)[Li]
reactant | ammonia | 3-5 ml | N | H3N
reactant | lithium amide | [NH2-].[Li+]
reactant | 5-[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]-1,3,4-thiadiazole-2-carboxylic acid, methyl ester | 3.10 mmol, 1.08 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1=NN=C(S1)C(=O)OC | C18H24N2O3S
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 5-[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]-1,3,4-thiadiazole-2-carboxamide | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1=NN=C(S1)C(=O)N | C17H23N3O2S
